US06124323
3,4-Dichloro-4-(4-chlorobenzyl)-1(2-(4-fluorophenoxy)ethyl)piperidine hydrochloride
To a stirred solution of 4-(4-chlorobenzyl)-1-(2-(4-fluorophenoxy)ethyl)-1,2,5,6-tetrahydropyridine hydrochloride (70 mg, 136 μmol) in CHCl3 (10 mL) a dilute solution of Cl2 in CCl4 was added in portions. After each addition the reaction was checked by TLC (1% MeOH/CHCl3). Cl2 addition was continued until all the starting material was converted to the much higher Rf product spot. The reaction mixture was washed with dilute NH4OH and the organic portion was filtered (cotton). Solvent removal gave a yellow oil. The oil was purified on silica gel with CHCl3 elution to give the free base of the title compound as a pale yellow oil (37 mg, 49%). The free base was converted to hydrochloride as a pale beige powder (40 mg): mp 78-83° C. (foams), 1H NMR (CDCl3) 1.98 (d, J=15 Hz, 1H), 2.95-4.00 (m, 9H), 4.10-4.20 (m, 1H), 4.38-4.75 (m, 2H), 6.79-7.02 (m, 2H), 7.27-7.37 (m, 2H), 12.48 (bs, 1H); HRMS calcd for C20H21Cl3FNO 415.0673, found 415.0664.

reactant | 4-(4-chlorobenzyl)-1-(2-(4-fluorophenoxy)ethyl)-1,2,5,6-tetrahydropyridine hydrochloride | 136 μmol, 70 mg | Cl.ClC1=CC=C(CC2=CCN(CC2)CCOC2=CC=C(C=C2)F)C=C1
reactant | Cl2 | ClCl | Cl2
reactant | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
solvent | CHCl3 | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CCl4 | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3,4-Dichloro-4-(4-chlorobenzyl)-1(2-(4-fluorophenoxy)ethyl)piperidine hydrochloride | 37 mg, 49% | Cl.ClC1CN(CCC1(CC1=CC=C(C=C1)Cl)Cl)CCOC1=CC=C(C=C1)F | InChI=1S/C20H21Cl3FNO.ClH/c21-16-3-1-15(2-4-16)13-20(23)9-10-25(14-19(20)22)11-12-26-18-7-5-17(24)6-8-18;/h1-8,19H,9-14H2;1H
